US05545742
Preparation of 2',5'-Difluoro-4'-nitroacetanilide
A mixture of nitric acid (21.85 mL) and sulfuric acid (28.5 mL) is added dropwise to a mixture of 2',5'-difluoroacetanilide (44.2 g, 0.281 mol) and acetic acid (19 mL) in sulfuric acid (190 mL) while maintaining the reaction mixture temperature below 10° C. After the addition is complete, the reaction mixture is stirred at 0° C. for one hour and poured onto cracked ice (2 L). The aqueous mixture is filtered to obtain a solid. The solid is air dried and recrystallized from ethanol to give the title product as a yellow, crystalline solid, mp 188°-189° C.

reactant | nitric acid | 21.85 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2',5'-difluoroacetanilide | 0.281 mol, 44.2 g | FC1=C(NC(C)=O)C=C(C=C1)F | C8H7F2NO
reactant | acetic acid | 19 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 190 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 28.5 mL | S(O)(O)(=O)=O | H2O4S
product | 2',5'-Difluoro-4'-nitroacetanilide | FC1=C(NC(C)=O)C=C(C(=C1)[N+](=O)[O-])F | C8H6F2N2O3
